US07122543B2
N-[3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoyl]piperidine
3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoic acid (21 mg, 0.0496 mmol) and piperidine (8.4 mg, 0.0988 mmol) were dissolved in methylene chloride (3 ml), then WSC-HCl (29 mg, 0.1512 mmol) was added thereto and the mixture was stirred at room temperature for 16 hours. The reaction solution was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by preparative thin layer chromatography (methylene chloride:methanol=95:5) to give the title compound (8.2 mg, 0.0167 mmol, 34%).

reactant | 3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoic acid | 0.0496 mmol, 21 mg | COC=1C(=C(CC=2C(=C(C(=O)O)C=CC2)C2=CC=NC=C2)C(=C(C1OC)OC)OC)C | C24H25NO6
reactant | piperidine | 0.0988 mmol, 8.4 mg | N1CCCCC1 | C5H11N
reactant | WSC HCl | 0.1512 mmol, 29 mg | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | N-[3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoyl]piperidine | 0.0167 mmol, 8.2 mg, 34% | COC=1C(=C(CC=2C(=C(C(=O)N3CCCCC3)C=CC2)C2=CC=NC=C2)C(=C(C1OC)OC)OC)C | C29H34N2O5
